US05321026
A solution of N-(3-methylbutyl)-10-[1-(1-pyrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (1.5 g), and methyl iodide (0.94 cc) in acetone (50 cc) is stirred for 4 days at a temperature in the region of 20° C. The light yellow solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C., and the light cream-colored meringue-like residue is suspended with stirring for 10 minutes in diethyl ether (100 cc), drained, washed with diethyl ether (2×10 cc) and dried at 40° C. under reduced pressure (5 mm Hg, 0.7 kPa). 1-Methyl-1-{2-[2-(3-methylbutyl)carbamoyl-10-phenothiazinyl]propyl}-pyrrolidinium iodide, L series (1.55 g) is thereby obtained in the form of a light beige powder, m.p. about 125°-130° C., the NMR spectrum of which is identical to that of the product of Example 11.

reactant | N-(3-methylbutyl)-10-[1-(1-pyrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | CC(CCNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C | C25H33N3OS
reactant | methyl iodide | 0.94 cc | CI | CH3I
solvent | acetone | 50 cc | CC(=O)C | C3H6O
product | 1-Methyl-1-{2-[2-(3-methylbutyl)carbamoyl-10-phenothiazinyl]propyl}-pyrrolidinium iodide | [I-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC(C)C)=O | InChI=1S/C26H35N3OS.HI/c1-19(2)13-14-27-26(30)21-11-12-25-23(17-21)28(22-9-5-6-10-24(22)31-25)20(3)18-29(4)15-7-8-16-29;/h5-6,9-12,17,19-20H,7-8,13-16,18H2,1-4H3;1H
